US07700655B2
(1) 2-Amino-4,5-diethyloxazole
Propioin (1.03 g, 8.87 mmol) was dissolved in ethanol (15 mL). Cyanamide (0.75 g, 17.7 mmol) and sodium ethoxide (1.21 g, 17.7 mmol) were added, and the mixture was stirred at room temperature for 3.5 hours. The reaction mixture was poured into water and extracted with ethyl acetate. After the organic layer was washed with water and brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation under reduced pressure was purified by chromatography on silica gel (dichloromethane:methanol=9:1) to give the title compound (369.2 mg, 29.7%) as an yellow amorphous.

reactant | Propioin | 8.87 mmol, 1.03 g | CCC(C(O)CC)=O | C6H12O2
reactant | Cyanamide | 17.7 mmol, 0.75 g | N#CN | CH2N2
reactant | sodium ethoxide | 17.7 mmol, 1.21 g | [O-]CC.[Na+]
reactant | water | O | H2O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-Amino-4,5-diethyloxazole | 369.2 mg, 29.7% | NC=1OC(=C(N1)CC)CC | C7H12N2O
